US07737145B2
In a similar manner as described in Pandit, C. R. et al., “Preparation of 2-Substituted Oxazoles”, Synth. Commun. 32, 2427-2432 (2002), 4-(2,2-dimethoxyethylcarbamoyl)phenyl acetate (43 g, 160.88 mmol) was stirred and treated with Eaton's reagent (380 ml; 7.7 wt. % phosphorus pentoxide in methanesulfonic acid, Aldrich # 38,081-4). After 15 minutes, the internal temperature of the reaction was raised to about 130° C. and held for about 3 hours. The reaction was followed by TLC analysis (2:1 EtOAc:Hex) with only a single new UV active spot observed. The reaction mixture was allowed to cool to about 40° C. and was then cooled in an ice bath to about 3° C. The reaction was poured into 2 L of ice water and extracted with ethyl acetate (1.4 L). The organic layer was washed with water (1 L). The combined aqueous layers were extracted with ethyl acetate (2×1 L). The combined organic layers were washed with water (2×) and brine, dried, treated with silica gel and charcoal, and concentrated. The residue was dissolved in methylene chloride and treated with hexane until a precipitate was seen. The mixture was treated with charcoal, filtered, and concentrated to give 53.3 g of 4-(oxazol-2-yl)phenyl methanesulfonate (>100% th.; 90% pract.) which contained 1.2 equivalents of methyl methanesulfonic acid; 1H NMR (CDCl3) δ 8.07 (d, 2H), 7.71 (d, 1H), 7.36 (d, 2H), 7.22 (d, 1H), 3.16 (s, 3H) ppm.

reactant | 4-(2,2-dimethoxyethylcarbamoyl)phenyl acetate | 160.88 mmol, 43 g | C(C)(=O)OC1=CC=C(C=C1)C(NCC(OC)OC)=O | C13H17NO5
reactant | Eaton's reagent | 380 ml | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(oxazol-2-yl)phenyl methanesulfonate | 53.3 g | CS(=O)(=O)OC1=CC=C(C=C1)C=1OC=CN1 | C10H9NO4S
